US07994164B2
(E)-N-(5-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-1-((3S,4S)-4-hydroxy-1-methylpyrrolidin-3-yl)-1H-benzo[d]imidazol-2(3H)-ylidene)cyanamide
To a solution of (3S,4S)-4-(4-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-2-nitrophenylamino)-1-methylpyrrolidin-3-ol (3.10 mmol, 1.43 g) in isopropanol (85 mL) and triethylamine (9.3 mmol, 1.30 mL) add 5% Pt/C (420 mg) and hydrogenate at 50 psi for 1.5 h. Filter through a plug of diatomaceous earth and wash with isopropanol (50 mL). Add diphenyl cyanocarbonimidate (3.1 mmol, 0.74 g) and stir at room temperature overnight, then heat to reflux for 3 h. Remove the solvent and purify the residue by column chromatography eluting with a gradient from 0% to 20% methanol in methylene chloride to give the title compound as a light brown solid (955 mg, 57%). [α]D23+13.8 (c 0.17, CH3OH); ESI MS m/z 482 [M+H]+.

reactant | (3S,4S)-4-(4-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-2-nitrophenylamino)-1-methylpyrrolidin-3-ol | 3.10 mmol, 1.43 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@@H]2[C@H](CN(C2)C)O)[N+](=O)[O-])C=CC=C3)C1 | C26H24FN3O4
reactant | triethylamine | 9.3 mmol, 1.30 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl cyanocarbonimidate | 3.1 mmol, 0.74 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | isopropanol | 85 mL | C(C)(C)O | C3H8O
catalyst | Pt/C | 420 mg | [Pt] | Pt
product | (E)-N-(5-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-1-((3S,4S)-4-hydroxy-1-methylpyrrolidin-3-yl)-1H-benzo[d]imidazol-2(3H)-ylidene)cyanamide | 955 mg, 57% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@H]4CN(C[C@@H]4O)C)C=C2)C=CC=C3)C1 | C28H24FN5O2
